datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[C:20]([c:21]1[c:22]([H:30])[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]1[H:34])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:27])([H:9])([H:10])[H:11].[C:20]([c:21]1[c:22]([H:30])[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]1[H:34])([H:28])[H:29],48.5344
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15](=[C:16][C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16](=[C:15]([H:18])[H:19])[C:17]([H:20])([H:21])[H:22])([H:7])[H:8],19.6648
[O:0]=[C:1][O:2][C:3]([O:4][H:7])([H:5])[H:6]>>[O+:0]#[C-:1].[O:2][C:3]([O:4][H:7])([H:5])[H:6],82.085896
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],43.5136
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[S:10]=[C:11][S:12][H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11](=[S:10])[S:12][H:13],73.22
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:13])([H:11])[H:12],157.695
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]([c:18]1[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]([H:28])[c:23]1[H:29])[H:24]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:24])([H:8])([H:9])[H:10].[S:17][c:18]1[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]([H:28])[c:23]1[H:29],2.5104
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:9])[H:8])([H:6])[H:7],41.8818
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])[H:9])([H:7])[H:8],57.4045
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:9](=[C:10]([H:26])[H:27])[H:25])[C:8]1([H:23])[H:24])[H:13])([H:11])[H:12],57.6137
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:7])([H:5])[H:6],59.3291
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[H:32])([H:29])([H:30])[H:31]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:27]([C:26]([H:29])([H:30])[H:31])([C:28]([H:33])([H:34])[H:35])[H:32],22.6773
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([S:10][H:16])[C:11](=[S:12])[H:17])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:13])([H:14])[H:15])([S:10][H:16])[C:11](=[S:12])[H:17],168.448
[S:0]=[C:1][S:2][H:3].[c:4]1([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]1[H:15]>>[S:0]=[C:1]([S:2][H:3])[H:10].[c:4]1[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]1[H:15],91.6296
[O:0]([H:1])[H:2].[O:3][H:4]>>[H:1].[O:0]([H:2])[O:3][H:4],303.816
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:5])[H:12])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7],96.6504
